US06071920
1-[N-(2-methoxycarbonylphenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine
A mixture of 0.93 g of methyl anthranilate, 2 g of 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine, 0.88 g of sodium acetate and 5 mL of H2O was stirred for 24 h at reflux. After cooling at room temperature, the mixture was extracted with EtOAc, the organic phase dried on Na2SO4, evaporated to dryness and the residue purified via flash chromatography (CH2Cl2 --MeOH 98:2) giving 0.41 g (18%) of the title compound.

reactant | methyl anthranilate | 0.93 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine | 2 g | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
reactant | sodium acetate | 0.88 g | C(C)(=O)[O-].[Na+]
solvent | H2O | 5 mL | O | H2O
product | 1-[N-(2-methoxycarbonylphenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine | 0.41 g, 18% | COC(=O)C1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C21H27N3O3
